US03941883
The mixture of 3.94 g of N-(4-nitro-o-tolyl)-3-methylphthalimide, 200 ml of ethyl acetate and 2.2 g of Raney nickel (pre-washed with water and ethyl acetate) is hydrogenated at 3.1 atm. and room temperature until the hydrogen uptake ceases. It is filtered, evaporated, the residue triturated with chloroform, filtered again, the filtrate evaporated and the residue recrystallized from methanol, to yield the N-(4-amino-o-tolyl)-3-methylphthalimide of the formula ##SPC5##

reactant | N-(4-nitro-o-tolyl)-3-methylphthalimide | 3.94 g | [N+](=O)([O-])C1=CC(=C(C=C1)C)N1C(C=2C(C1=O)=C(C=CC2)C)=O | C16H12N2O4
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 2.2 g | [Ni] | Ni
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | N-(4-amino-o-tolyl)-3-methylphthalimide | NC1=CC(=C(C=C1)C)N1C(C=2C(C1=O)=C(C=CC2)C)=O | C16H14N2O2
